US08124629B2
To a stirred solution of {6-fluoro-4-[4-(4-methyl-piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid ethyl ester (0.05 g, 0.10 mmol) in tetrahydrofuran (6 mL) was added a solution of lithium hydroxide monohydrate (0.021 g, 0.50 mmol) in water (1.5 mL) and the reaction mixture was stirred for 48 hours at room temperature. The solvents were distilled off under reduced pressure, then the residue was diluted with water (4 mL) and washed with ethyl acetate (2×3 mL) to remove unwanted organic products. The aqueous layer was separated and acidified to pH ˜3-4 with a 1.0 N aqueous solution of hydrochloric acid. The resulting mixture was extracted with ethyl acetate (2×10 mL). The combined organic phases were dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield 0.020 g (42%) of {6-fluoro-4-[4-(4-methyl-piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid as white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.09-8.19 (m, 2 H), 7.84-8.05 (m, 5 H), 7.71 (s, 1 H), 7.48-7.61 (m, 1 H), 3.81 (s, 2 H), 2.97 (br. s, 4 H), 2.38 (br. s, 4 H), 2.15 (s, 3 H). MS cald. for C24H23FN2O5S ([M+H]+) 471, obsd. 471.3.

reactant | {6-fluoro-4-[4-(4-methyl-piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid ethyl ester | 0.10 mmol, 0.05 g | C(C)OC(CC1=CC2=CC=C(C=C2C(=C1)C(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O)F)=O | C26H27FN2O5S
reactant | lithium hydroxide monohydrate | 0.50 mmol, 0.021 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | {6-fluoro-4-[4-(4-methyl-piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid | 0.020 g, 42% | FC=1C=C2C(=CC(=CC2=CC1)CC(=O)O)C(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O | C24H23FN2O5S
